US05576319
Step 1: (±)-6-Chloro-2-((1,1-dimethylethoxycarbonylamino)methyl)-1,2,3,4-tetrahydroquinoline
A solution of 6-chloroquinoline-2-carbonitrile (3.4 g, 0.018 mol) in methanol (50 ml) was shaken on a Parr hydrogenator at 55 psi H2 in the presence of PtO2 (0.1 g) for 18 h. The catalyst was then removed by filtration and the solvent evaporated. The residue was dissolved in dichloromethane (100 ml), cooled below -5° C. and di-tert-butyl dicarbonate (4.5 g, 0.02 mol) was added. After 2 h the solvent was evaporated and the residue triturated with hexane to afford the title compound as a colourless powder (4.3 g, 80%); δH (CDCl3) 1.45 (9H, s, C(CH3)3), 1.6-1.75 and 1.85-1.95 (2H, 2m, CH2CH2Ar), 2.7-2.85 (2H, m, CH2CH2Ar), 3.15-3.25, 3.25-3.35, 3.35-3.45 (3H, 3m, BOCNHCH2CHN), 4.88 (1H, br s, NH), 6.48 (1H, d, J 8 Hz, 8-H), 6.91-6.94 (2H, m, 5-H and 7-H).

reactant | 6-chloroquinoline-2-carbonitrile | 0.018 mol, 3.4 g | ClC=1C=C2C=CC(=NC2=CC1)C#N | C10H5ClN2
reactant | di-tert-butyl dicarbonate | 0.02 mol, 4.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 ml | CO | CH4O
catalyst | PtO2 | 0.1 g | O=[Pt]=O
product | (±)-6-Chloro-2-((1,1-dimethylethoxycarbonylamino)methyl)-1,2,3,4-tetrahydroquinoline | 4.3 g, 80% | ClC=1C=C2CCC(NC2=CC1)CNC(=O)OC(C)(C)C | C15H21ClN2O2
